US06844341B2
3-Amino-6-chloro-5-methylpyrazine
A mixture of 3,6-dichloro-5-methylpyrazine (5 g, 30.7 mmol) in ethanolic ammonia solution (50 ml) was heated for 8 hours in a high-pressure cell at 135° C. The solvent was then removed by evaporation and the residue dissolved in chloroform (40 ml). The organic solution was washed with water (2×25 ml) dried (MgSO4) and the volatiles removed by evaporation. The crude solid was semi-purified by column chromatography on silica gel eluting with dichloromethane/methanol (95:5) to the title compound (1.3 g, 31%) as a 10:17 mixture with its regioisomer. NMR: 2.06 (s, 3H), 2.18 (s, 3H), 6.2 (br s, 4H), 6.74 (s, 1H), 7.26 (s, 1H); m/z: 143 [MH]+.

reactant | 3,6-dichloro-5-methylpyrazine | 30.7 mmol, 5 g | ClC=1C=NC(=C(N1)C)Cl | C5H4Cl2N2
reactant | ammonia | 50 ml | N | H3N
product | 3-Amino-6-chloro-5-methylpyrazine | NC=1C=NC(=C(N1)C)Cl | C5H6ClN3
